US05219868
A mixture of 60.6 g of 3,4-dimethylaniline, 200 g of ethyl orthoformate and 0.05 g of sulfuric acid was placed in a reactor equipped with Dean's stark tube and agitated at 140° to 165° C. for about 1 hour. After concentration of the reaction solution under reduced pressure, 45 g of nitroiminoimidazolidine and 70 g of 1,3-dimethyl-2-imidazolidinone were added and agitated at 140° to 160° C. for 2 hours. The reaction mixture was poured into 200 ml of a saturated saline solution, to which 150 ml of ethyl acetate was added. The resultant crystals were collected by filtration, washed with ethyl acetate and dried to give 40.2 g of 1-(3,4-dimethylphenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | 3,4-dimethylaniline | 60.6 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | ethyl orthoformate | 200 g | C(OCC)([O-])[O-]
reactant | nitroiminoimidazolidine | 45 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | 1,3-dimethyl-2-imidazolidinone | 70 g | CN1C(N(CC1)C)=O | C5H10N2O
catalyst | sulfuric acid | 0.05 g | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-dimethylphenyliminomethyl)-2-nitroiminoimidazolidine | 40.2 g | CC=1C=C(C=CC1C)N=CN1C(NCC1)=N[N+](=O)[O-] | C12H15N5O2
